US08754226B2
(3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride (0.03 g, 0.073 mmol) was dissolved in DMF (2 mL) and 2,5-dichloropyrazine (0.012 g, 0.081 mmol) and Hunig's base (0.040 mL, 0.22 mmol) were added. The reaction was heated at 100° C. for 4 hours. The reaction was cooled and concentrated. The residue was purified by reverse phase chromatography (5 to 95% ACN in water) to afford (3S,4S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxypyrrolidin-2-one (0.0027 g, 0.0056 mmol, 7.6% yield). Mass spectrum (apci) m/z=485.2 (M+H).

reactant | (3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride | 0.073 mmol, 0.03 g | Cl.FC1=C(O[C@@H]2C(N(C[C@@H]2O)C2CCNCC2)=O)C=CC(=C1)S(=O)(=O)C
reactant | 2,5-dichloropyrazine | 0.081 mmol, 0.012 g | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | Hunig's base | 0.22 mmol, 0.040 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3S,4S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxypyrrolidin-2-one | 0.0056 mmol, 0.0027 g, 7.6% yield | ClC=1N=CC(=NC1)N1CCC(CC1)N1C([C@H]([C@H](C1)O)OC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C20H22ClFN4O5S
